US07456164B2
{3-[4-(4-Dimethylaminomethyltetrahydropyran-4-yl)phenoxy]-propyl}isopropylmethylamine
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (500 mg, 2.13 mmol), (3-chloro-propyl)-isopropyl-methyl-amine (318 mg, 2,13 mmol), DMF (10 ml) and K2CO3 (1.18 g, 8.52 mmol) were reacted together according to general procedure B. Purification by chromatography on silica, eluant DCM:MeOH:NH3 (96:3:1) provided the title compound (200 mg, 43%) as a white solid. 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.87 (d, 2H), 4.00 (t, 2H), 3.75 (dt, 2H), 3.55 (td, 2H), 2.83 (sep, 1H), 2.55 (t, 2H), 2.40 (s, 2H), 2.22 (s, 3H), 2.14-2.05 (m, 2H), 1.96 (s, 6H), 2.00-1.82 (m, 4H), 1.00 (d, 6H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 2.13 mmol, 500 mg | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | (3-chloro-propyl)-isopropyl-methyl-amine | 2,13 mmol, 318 mg | ClCCCN(C)C(C)C | C7H16ClN
reactant | K2CO3 | 8.52 mmol, 1.18 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | {3-[4-(4-Dimethylaminomethyltetrahydropyran-4-yl)phenoxy]-propyl}isopropylmethylamine | 200 mg, 43% | CN(C)CC1(CCOCC1)C1=CC=C(OCCCN(C)C(C)C)C=C1 | C21H36N2O2
